US07816523B2
Synthesis of [3-(2-oxo-2,3-dihydro-2λ4-[1,2,3,5]oxathiadiazol-4-yl)-phenyl]-methanol
Add hydroxylamine (50% aqueous solution, 5.34 g, 80.8 mmol) dropwise to a refluxing solution of 3-(tert-butyl-dimethyl-silanyloxymethyl)-benzonitrile (5.00 g, 20.2 mmol) in isopropanol (0.1 M). After 2 hours, concentrate the reaction under reduced pressure and azeotrope with toluene. Add dichloromethane (0.1 M) and pyridine (1.92 g, 24.3 mmol) and cool reaction to −78° C. Add thionyl chloride (2.64 g, 22.2 mmol) via syringe. After 4 hours, warm the reaction to room temperature. Concentrate the reaction under reduced pressure. Add tetrahydrofuran (0.1M) and 10% hydrochloric acid (0.1M) and stir. After 18 hours, add brine and extract with 25% isopropyl alcohol:75% dichloromethane. Combine organic layers, dry with sodium sulfate, filter and concentrate under reduced pressure to yield the title product as a yellow solid (3.90 g, 91%): 1H NMR (DMSO-d6) δ 4.63 (s, 2H), 5.42 (bs, 1H), 7.59 (m, 2H), 7.75 (dt, 1H), 7.88 (s, 1H), 12.23 (bs, 1H).

reactant | hydroxylamine | 80.8 mmol, 5.34 g | NO | H3NO
reactant | 3-(tert-butyl-dimethyl-silanyloxymethyl)-benzonitrile | 20.2 mmol, 5.00 g | C(C)(C)(C)[SiH2]OC(C=1C=C(C#N)C=CC1)(C)C | C14H21NOSi
reactant | pyridine | 24.3 mmol, 1.92 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 22.2 mmol, 2.64 g | S(=O)(Cl)Cl | Cl2OS
reactant | hydrochloric acid | 0.1M | Cl | ClH
solvent | isopropanol | 0.1 M | C(C)(C)O | C3H8O
solvent | brine | [Cl-].[Na+].O
solvent | tetrahydrofuran | 0.1M | O1CCCC1 | C4H8O
solvent | dichloromethane | 0.1 M | ClCCl | CH2Cl2
product | [3-(2-oxo-2,3-dihydro-2λ4-[1,2,3,5]oxathiadiazol-4-yl)-phenyl]-methanol | 3.90 g, 91% | O=S1ON=C(N1)C=1C=C(C=CC1)CO | C8H8N2O3S
